US04514317
Preparation of 2,3-dicyano-4-pentylphenyl 4-pentylbicyclo(2,2,2)octane-1-carboxylate
25 mmoles of 4-pentylbicyclo(2,2,2)octane-1-carboxylic acid are warmed to the reflux temperature with 40 ml of thionyl chloride for 30 minutes. The acid chloride formed was freed from excess thionyl chloride. The acid chloride thus obtained was now added dropwise to a solution of 25 mmoles of 2,3-dicyano-4-pentylphenol (m.p. 142° C.) in 100 ml of pyridine at 80° C. When the reaction had ended, the mixture was poured into excess dilute hydrochloric acid and extracted with methylene chloride. The crude product obtained from the extract by evaporation was recrystallized. The resulting title compound of this example is monotropically nematic (K 84.0 N (36.1) I) and has a negative DCA.

reactant | 2,3-dicyano-4-pentylphenol | 25 mmoles | C(#N)C1=C(C=CC(=C1C#N)CCCCC)O | C13H14N2O
reactant | hydrochloric acid | Cl | ClH
reactant | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2,3-dicyano-4-pentylphenyl 4-pentylbicyclo(2,2,2)octane-1-carboxylate | C(CCCC)C12CCC(CC1)(CC2)C(=O)OC2=C(C(=C(C=C2)CCCCC)C#N)C#N | C27H36N2O2
